US06716837B1
6-(2-(Diethylamino)ethyl)-1-isopropyl-indole (compound 9, alkylation example)
Prepared from 6-(2-(Diethylamino)ethyl)-indole (14 mg, 0.0647 mmol), 2-iodopropane (44 μl, 0.259 mmol), NaH (3.1 mg, 0.129 mmol), K2CO3 (35 mg, 0.259 mmol) in 0.1 ml of DMF and 0.5 ml of toluene, according to example. Yield 8.5 mg (51%).

reactant | 6-(2-(Diethylamino)ethyl)-indole | 0.0647 mmol, 14 mg | C(C)N(CCC1=CC=C2C=CNC2=C1)CC | C14H20N2
reactant | 2-iodopropane | 0.259 mmol, 44 μl | IC(C)C | C3H7I
reactant | NaH | 0.129 mmol, 3.1 mg | [H-].[Na+]
reactant | K2CO3 | 0.259 mmol, 35 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(2-(Diethylamino)ethyl)-1-isopropyl-indole | C(C)N(CCC1=CC=C2C=CN(C2=C1)C(C)C)CC | C17H26N2
